US07601737B2
At 55-65° C., a solution of 4-chloro-2-chloromethyl-3-methoxypyridinium chloride (10.0 kg, 43.8 mol) in water (20 L) was added over 2-3 h to a mixture of 5-difluoromethoxy-1H-benzimidazole-2-thiol (8.84 kg, 40.9 mol), toluene (43 L), water (21 L) and 40% aqueous NaOH (10.3 kg, 103 mol). Stirring at 60° C. was continued for 2-3 h before the reaction mixture was cooled to 10-15° C. The precipitate was centrifuged off, washed with toluene (16 L) and re-pulped in water (122 L). Centrifugation followed by an aqueous rinse (32 L) and drying at 35° C. in vacuo gave 5-difluoromethoxy-2-[(4-chloro-3-methoxy-2-pyridinyl)methylthio]-1H-benzimidazole mono hydrate (KF=4.6%) as an off-white solid (m. p. 95-99° C.); yield 14.2 kg (92%).

reactant | 4-chloro-2-chloromethyl-3-methoxypyridinium chloride | 43.8 mol, 10.0 kg | [Cl-].ClC1=C(C(=[NH+]C=C1)CCl)OC
reactant | 5-difluoromethoxy-1H-benzimidazole-2-thiol | 40.9 mol, 8.84 kg | FC(OC1=CC2=C(NC(=N2)S)C=C1)F | C8H6F2N2OS
reactant | toluene | 43 L | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | 103 mol, 10.3 kg | [OH-].[Na+]
solvent | water | 20 L | O | H2O
solvent | water | 21 L | O | H2O
product | 5-difluoromethoxy-2-[(4-chloro-3-methoxy-2-pyridinyl)methylthio]-1H-benzimidazole mono hydrate | 4.6% | O.FC(OC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)Cl)C=C1)F | InChI=1S/C15H12ClF2N3O2S.H2O/c1-22-13-9(16)4-5-19-12(13)7-24-15-20-10-3-2-8(23-14(17)18)6-11(10)21-15;/h2-6,14H,7H2,1H3,(H,20,21);1H2
